US06852731B2
[[(6-{[(4-chlorobenzyl)amino]carbonyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridin-2-yl)methyl](methyl)amino]methyl(phenyl)phosphinic acid
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (25 mg, 0.063 mmol), 1-(methylamino)methyl(phenyl)phosphinic acid (R. Tyka, Synthesis 1984, 218) (24 mg, 0.0.13 mmol) and potassium carbonate (35 mg, 0.25 mmol) in dry DMF (1.0 mL) and water (0.25 mL) was stirred at 60° C. for 30 minutes, going to a solution. HPLC analysis indicated reaction was complete. The solvent was removed in vacuo, and the resulting white solid was washed with methylene chloride. The solid was dissolved in water (5 mL) and brought to pH 7 with 1.0 M aqueous HCl. After standing in a 0° C. refrigerator overnight, the mixture was filtered, and the collected solid was washed with cold water. Drying in vacuo left the title compound as a white powder (23 mg).

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.063 mmol, 25 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 1-(methylamino)methyl(phenyl)phosphinic acid | 24 mg | CNCP(O)(=O)C1=CC=CC=C1 | C8H12NO2P
reactant | potassium carbonate | 0.25 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | 0.25 mL | O | H2O
product | [[(6-{[(4-chlorobenzyl)amino]carbonyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridin-2-yl)methyl](methyl)amino]methyl(phenyl)phosphinic acid | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)OP(=O)(C3=CC=CC=C3)C)C)=O)C=C1 | C26H27ClN3O4PS
